US04666916
To a solution of 1.69 g of (±)-[4R*,4aS*,10bR*]-7-bromo-4-(hydroxymethyl)-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2 H-[1]benzopyrano[4,3-c]pyridine and 0.82 ml triethylamine in 60 ml CH2Cl2 is added 0.42 ml of methanesulfonyl chloride. After 15 min. 1 drop methanol is added and the reaction mixture is washed with saturated NaHCO3 and dried over Na2SO4. Filtration and removal of solvents under reduced pressure yields (±)-[4R*,4aS*,10bR*]-7-bromo-4-(methylsulfonyloxymethyl)-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine.

reactant | (±)-[4R*,4aS*,10bR*]-7-bromo-4-(hydroxymethyl)-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2 H-[1]benzopyrano[4,3-c]pyridine | 1.69 g | BrC1=CC(=CC2=C1OC[C@H]1[C@H]2CN(C[C@@H]1CO)C)OC | C15H20BrNO3
reactant | triethylamine | 0.82 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.42 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | methanol | 1 drop | CO | CH4O
product | (±)-[4R*,4aS*,10bR*]-7-bromo-4-(methylsulfonyloxymethyl)-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine | BrC1=CC(=CC2=C1OC[C@H]1[C@H]2CN(C[C@@H]1COS(=O)(=O)C)C)OC | C16H22BrNO5S
